US08835428B2
Methyl 2-(3-(4-(3-(2,4-difluorophenyl)ureido)phenyl)isoxazole-5-carboxamido)-3-phenylpropanoate
The title compound was prepared according to the procedure as set forth in example 151, except that 2,4-difluoro-1-isocyanatobenzene was used in place of 1-fluoro-3-isocyanatobenzene and methyl 2-(3-(4-aminophenyl)isoxazole-5-carboxamido)-3-phenylpropanoate was used in place of methyl 2-(3-(4-aminophenyl)isoxazole-5-carboxamido)-3-methylbutanoate to yield 62% of title compound. MS (ESI): m/z 521.2 (M+H)+; 1HNMR (DMSO-d6, 300 MHz) δ: 9.43(d, 1H), 9.28 (s, 1H), 8.58(s, 1H), 8.10 (m, 1H), 7.84 (d, 2H), 7.60 (d, 2H), 7.55 (s, 1H), 7.34 (m, 5H), 7.20 (m, 1H), 7.07 (m, 1H), 4.74 (m. 1H), 3.64 (s, 3H), 3.23 (m, 2H).

reactant | 2,4-difluoro-1-isocyanatobenzene | FC1=C(C=CC(=C1)F)N=C=O | C7H3F2NO
reactant | methyl 2-(3-(4-aminophenyl)isoxazole-5-carboxamido)-3-phenylpropanoate | NC1=CC=C(C=C1)C1=NOC(=C1)C(=O)NC(C(=O)OC)CC1=CC=CC=C1 | C20H19N3O4
product | Methyl 2-(3-(4-(3-(2,4-difluorophenyl)ureido)phenyl)isoxazole-5-carboxamido)-3-phenylpropanoate | 62% | FC1=C(C=CC(=C1)F)NC(NC1=CC=C(C=C1)C1=NOC(=C1)C(=O)NC(C(=O)OC)CC1=CC=CC=C1)=O | C27H22F2N4O5
